US08039469B2
Preparation of 1-(4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(4-(2-hydroxyethylamino)piperidin-1-yl)-1,3,5-triazin-2-yl)phenyl)-3-(pyridin-4-yl)urea
Starting from 1-(4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(4-oxopiperidin-1-yl)-1,3,5-triazin-2-yl)phenyl)-3-(pyridin-4-yl)urea.TFA (50 mg) and ethanolamine (0.020 mL) and following the procedure as outlined in example 118, the title compound was isolated as its di-TFA salt after HPLC purification. MS (ES+) 546.7 (M+H)+

reactant | 1-(4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(4-oxopiperidin-1-yl)-1,3,5-triazin-2-yl)phenyl)-3-(pyridin-4-yl)urea | C12CN(CC(CC1)O2)C2=NC(=NC(=N2)N2CCC(CC2)=O)C2=CC=C(C=C2)NC(=O)NC2=CC=NC=C2 | C26H28N8O3
reactant | TFA | 50 mg | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | ethanolamine | 0.020 mL | C(O)CN | C2H7NO
product | 1-(4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(4-(2-hydroxyethylamino)piperidin-1-yl)-1,3,5-triazin-2-yl)phenyl)-3-(pyridin-4-yl)urea | C12CN(CC(CC1)O2)C2=NC(=NC(=N2)N2CCC(CC2)NCCO)C2=CC=C(C=C2)NC(=O)NC2=CC=NC=C2 | C28H35N9O3
